Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulindac / Aspirin / Hycodan
 
Attending: ___
 
Chief Complaint:
Wheezing
 
Major Surgical or Invasive Procedure:
transient bipap
 
History of Present Illness:
Ms. ___ is an ___ woman with a history of 
hypercholesterolemia, hypertension, nonallergic rhinitis, 
chronic sinusitis, and chronic cough who presents with cough, 
wheezing, and shortness of breath.  Per the patient, she 
developed an increasing cough over the last week associated with 
wheezy.  She was seen in HCA on ___ and was sent to the ED for 
evaluation due to the concern of hypoxia to 94% and possible 
ischemia based on an EKG.  She was admitted overnight (discharge 
summary not complete) and treated for asthma exacerbation 
(although no clear history of this) with nebs and steroids, and 
advair was added back to her regimen.  She went home on ___ and 
started to wheeze again.  Her granddaughter called Dr. ___ 
on ___ because they thought she was supposed to be on a steroid 
taper, but was not discharged on steroids.  He prescribed a 
short steroid burst which she started taking on ___ with mild 
improvement.  However, last night her wheezing got much worse 
and she couldn't stop coughing due to her GERD and nasal drip.  
She normally feels SOB when coughing, but otherwise did not feel 
SOB.  She was concerned about her wheezing and presented to OSH 
for evaluation.  Of note, she denies PND but does not like to 
lie flat because her coughing worsens.  She states that the only 
time she feels SOB is when she is coughing, and the coughing 
fits can happen either at rest or with exertion, and there is no 
pattern.  The coughing worsens if she has a URI or allergy 
symptoms.  Additionally, when asked what is more concerning to 
her, her audible wheeze or feeling SOB, she states the wheezy is 
her most prominent and concerning symptom and that the SOB is in 
the setting of the cough.  No fevers, chills, nausea, vomiting.  
No chest pain, palpatations, weight gain, ___ edema (edema 
improved). 

Vitals recorded by EMS were 146/52, 82, 18, 100%. At ___ 
___ she received duoneb, Solumedrol 125mg and magnesium.  
Transferred to ___ where initial vitals were 96.7, 73, 162/90, 
20, 98% on 4L.  CXR initially thought to have LLL infiltrate and 
received ceftriaxone and azithromycin, but radiology later read 
it as normal.  Was audibly wheezing and received an additional 
125mg IV solumedrol and multiple rounds of albuterol and 
atrovent nebs.  Flu sent and was negative.  EKG with new ST 
depressions in V4-V6, CE's negative.  Recieved 500cc IVFs and 
100mg thiamine.  ABG prior to BIPAP was 7.37/40/109.  Received 
BIPAP for one hour with some improvement in symptoms. Of note 
lactate 5.5 to 5.3 to 8.2 over 6 hrs, unclear etiology as no 
abdominal pain, hypotension, not felt to be septic physiology. 

Currently the patient is without complaints.  She is not SOB or 
wheezy and feels much better when compared to presentation.  No 
chest pain.

 
Past Medical History:
# Status post right shoulder replacement  
# Status post right hip replacement.  
# Sinusitis.
# Nonallergic Rhinitis
# Bronchial asthma - not supported by PFTs
# OSA and ? obesity hypoventilation syndrome - followed by Dr. 
___ 
# GERD.  
# Hypertension.  
# History of glaucoma.  
# Arthritis.  
# CAD with normal persantine MIBI in ___.  
# History of cataract surgery.  
# Influenza A ___
 
Social History:
___
Family History:
Her family history is significant for mother with breast cancer 
at age ___ and a father who died of prostate cancer in his ___.  

 
Physical Exam:
Tmax: 36.4 °C (97.6 °F)
Tcurrent: 36.4 °C (97.6 °F)
HR: 79 (79 - 79) bpm
BP: 137/71(88) {137/71(88) - 137/71(88)} mmHg
SpO2: 92% 
Heart rhythm: SR (Sinus Rhythm)

General Appearance: Well nourished, No acute distress, audible 
wheeze
Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t) 
Conjunctiva pale
Head, Ears, Nose, Throat: No(t) Normocephalic, Poor dentition, 
No(t) Endotracheal tube, No(t) NG tube
Lymphatic: Cervical WNL, Supraclavicular WNL
Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, 
No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
Peripheral Vascular: (Right radial pulse: Present), (Left radial 
pulse: Present), (Right DP pulse: Present), (Left DP pulse: 
Present)
Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: 
Wheezes : squeeky throughout, Diminished: )
Abdominal: Soft, Non-tender, Bowel sounds present
Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) 
Clubbing
Musculoskeletal: No(t) Muscle wasting
Skin:  Warm, No(t) Rash: , No(t) Jaundice
Neurologic: Attentive, Follows simple commands, Responds to: Not 
assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not 
assessed
 
Pertinent Results:
___ CXR: IMPRESSION: No interval changes since ___. No acute cardiopulmonary process.

___ 2D ECHO: The left atrium is mildly dilated. No atrial 
septal defect is seen by 2D or color Doppler. The right atrial 
pressure is indeterminate. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%) There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion. 

Compared with the prior study (images reviewed) of ___, the 
degree of pulmonary hypertension detected has slightly 
decreased.  

___ 07:23PM   GLUCOSE-210* UREA N-15 CREAT-0.9 SODIUM-145 
POTASSIUM-3.8 CHLORIDE-107 TOTAL CO2-23 ANION GAP-19
___ 07:23PM   CK(CPK)-39
___ 07:23PM   CK-MB-3 cTropnT-<0.01 proBNP-334
___ 07:23PM   CALCIUM-8.6 PHOSPHATE-3.1 MAGNESIUM-2.4
___ 04:01PM   TYPE-ART PO2-109* PCO2-40 PH-7.37 TOTAL 
CO2-24 BASE XS--1 INTUBATED-NOT INTUBA
___ 04:01PM   LACTATE-8.2*
___ 12:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 11:38AM   PO2-103 PCO2-43 PH-7.38 TOTAL CO2-26 BASE 
XS-0
___ 11:38AM   LACTATE-5.3*
___ 10:27AM   LACTATE-5.5*
___ 10:15AM   GLUCOSE-210* UREA N-18 CREAT-1.0 SODIUM-146* 
POTASSIUM-3.0* CHLORIDE-105 TOTAL CO2-26 ANION GAP-18
___ 10:15AM   ALT(SGPT)-17 AST(SGOT)-15 CK(CPK)-39 ALK 
PHOS-89 TOT BILI-0.2
___ 10:15AM   LIPASE-21
___ 10:15AM   CK-MB-NotDone cTropnT-<0.01
___ 10:15AM   CALCIUM-9.1 PHOSPHATE-2.8 MAGNESIUM-2.8*
___ 10:15AM   WBC-10.9# RBC-4.91 HGB-12.7 HCT-40.3 MCV-82 
MCH-25.9* MCHC-31.6 RDW-16.9*
___ 10:15AM   NEUTS-89.9* LYMPHS-8.6* MONOS-1.4* EOS-0.2 
BASOS-0
___ 10:15AM   PLT COUNT-___/P:  The patient is a ___ y.o.f. with nonallergic rhinitis, 
sinusitis, post-nasal drip, GERD, chronic cough and wheezing, 
HTN, hypercholesteremia, and CAD who presents with cough and 
wheezing.  

# Cough/Wheeze/SOB – Significant workup as outpatient with 
possibly some component of asthma based on flow/volume curves on 
recent spirometry.  Seems that most of the complaint is from 
hearing herself wheeze which further exacerbates the cough which 
then leads to SOB.  Post nasal drip present causing cough, as 
well as GERD.  She was transiently treated with BiPAP in the ED 
with improvement in her symptoms.  The morning after admission, 
she was not requiring oxygen and her wheezing had improved.  It 
seemed that most of her wheezing was upper airway generated near 
her neck.  She will need followup with Pulmonary and Sleep to 
further assess the question of whether asthma is present based 
on the PFT tracings. Sleep study was done, but results are still 
pending.  The patient tolerated CPAP in house, so getting her 
CPAP machine at home would be beneficial.  She will need to 
followup with the sleep clinic for further titration of her CPAP 
settings.  The patient is closely followed by allergy, but she 
would likely also benefit from further evaluation by ENT to 
address the issue of chronic sinusitis and post nasal drip to 
see if there are any other options available.  PCP followup will 
be arranged to discuss further therapy.  She needs close 
followup as an outpatient to prevent frequent hospitalization 
for these symptoms.  She will need BID PPI and GI followup for 
possible EGD to evaluate her GERD.  She will continue her home 
medications.  The prednisone will be tapered off rapidly (40 mg 
on ___, 20 mg ___, 10 mg ___, then off).  She had 3 sets of 
cardiac enzymes which were negative.  CXR did not show any acute 
process.  An ECHO was done which showed normal EF and slightly 
decreased pulmonary artery sytolic hypertension. 

# Elevated lactate – lactate improving- unclear etiology.  No 
metabolic acidosis present, though did have gap 15.  It was 
unclear how to interpret these results. It resolved with some 
IVFs.  She was hemodynamically stable. 

# GERD - BID PPI

# HTN - cont home HCTZ, lisinopril, atenolol

# Anemia - Currently stable.  Iron deficiency on past labs.  
Continue to  monitor

 
Medications on Admission:
Atenolol 50mg daily
Atorvastatin 10mg daily
Azelastine 137mcg, 2 sprays nasal BID
Vitamin D 400 units daily
Advair 500/50 1 inhalation daily (but was recently stopped by 
her PCP given no definitive evidence of asthma)
Furosemide 20mg daily
HCTZ 12.5mg daily
Lisinopril 20mg daily
Omeprazole 40mg EC BID
Potassium 20 mEQ daily

 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Azelastine 137 mcg Aerosol, Spray Sig: One (1) spray Nasal 
BID (2 times a day).  
4. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
6. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
8. Potassium Chloride 10 mEq Tablet Sustained Release Sig: One 
(1) Tablet Sustained Release PO once a day.  
9. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).
Disp:*1 bottle* Refills:*2*
10. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
11. Mucinex ___ mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO every six (6) hours.  
12. Prednisone 10 mg Tablet Sig: ___ Tablets PO once a day: 4 
pills: ___
2 pills: ___
1 pill: ___.
Disp:*7 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Reactive Airway Disease
Post Nasal Drip
Chronic Sinusitis

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted for wheezing and shortness of breath.  It is 
thought that this is likely due to your post nasal drip and 
chronic sinsusitis causing a cough and leading to reactive 
airways.  You were transiently on BiPAP and then treated with 
inhalers and a rapid steroid taper.  You improved during this 
hospitalization.  You were also started on CPAP at night for 
your likely obstructive sleep apnea.  Please take all 
medications as prescribed.  Please keep all scheduled 
appointments.

If you develop any of the following concerning symptoms, please 
call your PCP or go to the ED: chest pains, shortness of breath, 
inability to breath, fever, chills, nausea or vomiting.
 
Followup Instructions:
___